US04191621
A forced circulation apparatus is charged with a solution of 274 g (2 moles) of o-nitrotoluene in 3000 g (about 2 liters) of carbon tetrachloride and also with an aqueous solution containing 500 ml of water, 453 g (4.4 moles) of sodium bromide and 10 g of disodium hydrogen phosphate (0.08 mole). The mixture is circulated around a 150 watt sodium high-pressure lamp and heated to reflux. Under reflux and irradiation, 340 g (4.8 moles) of chlorine gas are introduced and simultaneously the pH value is kept constantly at 6 to 6.5 by the dropwise addition of aqueous sodium hydroxide solution. The chlorine gas must be introduced at such a rate that the bromine set free is always just consumed. In the course of about 6 hours the addition of chlorine is complete and virtually the entire amount has been reacted to o-nitrotoluene. After cooling, the phases are separated and the carbon tetrachloride phase is concentrated, affording 570 g of o-nitrobenzal bromide (content 99%).

reactant | o-nitrotoluene | 2 moles, 274 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | sodium bromide | 4.4 moles, 453 g | [Br-].[Na+]
reactant | sodium | [Na] | Na
reactant | chlorine | 4.8 moles, 340 g | ClCl | Cl2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | bromine | BrBr | Br2
solvent | carbon tetrachloride | about 2 liters, 3000 g | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | disodium hydrogen phosphate | 0.08 mole, 10 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | water | 500 ml | O | H2O
product | o-nitrobenzal bromide | 570 g, 99% | [N+](=O)([O-])C1=C(C(Br)Br)C=CC=C1 | C7H5Br2NO2
